US07579359B2
The method of Part B of Example 20 was followed using N-(4-chloroquinolin-3-yl)acetamide (10.6 g, 48.0 mmol) in lieu of 4-chloroquinolin-3-ylformamide and O-(2-nitrobenzyl)hydroxylamine hydrochloride (10.8 g, 52.8 mmol) in lieu of O-ethylhydroxylamine hydrochloride in isopropanol (120 mL). Chromatographic purification was carried out eluting with 5% methanol in dichloromethane containing 2 mL of aqueous ammonium hydroxide per liter of eluent to provide 7.6 g of 2-methyl-1-[(2-nitrobenzyl)oxy]-1H-imidazo[4,5-c]quinoline.

reactant | N-(4-chloroquinolin-3-yl)acetamide | 48.0 mmol, 10.6 g | ClC1=C(C=NC2=CC=CC=C12)NC(C)=O | C11H9ClN2O
reactant | 4-chloroquinolin-3-ylformamide | ClC1=C(C=NC2=CC=CC=C12)NC=O | C10H7ClN2O
reactant | O-(2-nitrobenzyl)hydroxylamine hydrochloride | 52.8 mmol, 10.8 g | Cl.[N+](=O)([O-])C1=C(CON)C=CC=C1
reactant | O-ethylhydroxylamine hydrochloride | Cl.C(C)ON
solvent | isopropanol | 120 mL | C(C)(C)O | C3H8O
product | 2-methyl-1-[(2-nitrobenzyl)oxy]-1H-imidazo[4,5-c]quinoline | 7.6 g | CC=1N(C2=C(C=NC=3C=CC=CC23)N1)OCC1=C(C=CC=C1)[N+](=O)[O-] | C18H14N4O3
